US04925864
Preparation of 5-chloro-3-(tert-butyl)-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazole
4.8 g (0.015 mol) of 5-hydroxy-3-(tert-butyl)-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazole was added to 20 ml of phosphorus oxychloride, and stirred under reflux for 24 hours. The reaction mixture was cooled, and excess phosphorus oxychloride was distilled off under reduced pressure. To the residue, 100 ml of dichloromethane was added, and the mixture was washed with water. Then, the dichloromethane layer was dried, and the solvent was distilled off. The residue thereby obtained was purified by silica gel column chromatography to obtain 4.3 g (yield: 84.3%) of the desired compound as white needle like crystals. Melting point 98°-98.5° C.

reactant | 5-hydroxy-3-(tert-butyl)-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazole | 0.015 mol, 4.8 g | OC1=NC(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C(C)(C)C | C12H12Cl3N3O
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-3-(tert-butyl)-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazole | 4.3 g, yield: 84.3% | ClC1=NC(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C(C)(C)C | C12H11Cl4N3
